US08222266B2
4-(2,2-difluoro-1,3-benzodioxol-4-yl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2(1H)-pyrimidinone hydrochloride (E5)
4-(2,2-Difluoro-1,3-benzodioxol-4-yl)-1-{4-[(1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hex-3-yl]-butyl}-1H-pyrimidin-2-one was treated with 4N HCl in dioxane (1 eq), to give the title compound.

reactant | 4-(2,2-Difluoro-1,3-benzodioxol-4-yl)-1-{4-[(1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hex-3-yl]-butyl}-1H-pyrimidin-2-one | FC1(OC2=C(O1)C=CC=C2C2=NC(N(C=C2)CCCCN2C[C@]1(C[C@H]1C2)C2=CC=C(C=C2)C(F)(F)F)=O)F | C27H24F5N3O3
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 1 eq | O1CCOCC1 | C4H8O2
product | 4-(2,2-difluoro-1,3-benzodioxol-4-yl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2(1H)-pyrimidinone hydrochloride | Cl.FC1(OC2=C(O1)C=CC=C2C2=NC(N(C=C2)CCCCN2C[C@]1(C[C@H]1C2)C2=CC=C(C=C2)C(F)(F)F)=O)F | InChI=1S/C27H24F5N3O3.ClH/c28-26(29,30)18-8-6-17(7-9-18)25-14-19(25)15-34(16-25)11-1-2-12-35-13-10-21(33-24(35)36)20-4-3-5-22-23(20)38-27(31,32)37-22;/h3-10,13,19H,1-2,11-12,14-16H2;1H/t19-,25+;/m0./s1
